US09145402B2
To a suspension of (3-methoxy-4-nitrophenyl)(methyl)sulfane (0.58 g, 2.9 mmol) in acetone (10 mL) was added water (10 mL), methanol (1.0 mL). The mixture was cooled in an ice-bath for 10 minutes before adding Oxone (2.90 g, 4.72 mmol) in four portions over 4 minutes. The reaction was stirred at 0° C. for 15 minutes and then allowed to warm up to room temperature. The reaction was stirred at room temperature for 2 hours before being diluted with EtOAc (50 mL). The suspension was filtered, concentrated to ⅓ of its volume and diluted with water (40 mL). The mixture was then extracted with EtOAc. The combined extracts were washed with brine, dried over sodium sulfate, filtered and concentrated to give 2-methoxy-4-(methylsulfonyl)-1-nitrobenzene (0.67 g, 83%).

reactant | (3-methoxy-4-nitrophenyl)(methyl)sulfane | 2.9 mmol, 0.58 g | COC=1C=C(C=CC1[N+](=O)[O-])SC | C8H9NO3S
reactant | water | 10 mL | O | H2O
reactant | methanol | 1.0 mL | CO | CH4O
reactant | Oxone | 4.72 mmol, 2.90 g | OOS(=O)[O-].[K+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 2-methoxy-4-(methylsulfonyl)-1-nitrobenzene | 0.67 g, 83% | COC1=C(C=CC(=C1)S(=O)(=O)C)[N+](=O)[O-] | C8H9NO5S
